US05728686
a) 7-(3-Methylbutyl)-3-methylxanthine
100 g (0.602 mol) of 3-methylxanthine, dissolved in 1200 ml of DMF, were slowly treated with 16 g (0.66 mol) of sodium hydride. The solution was heated to 60° C. and, when the evolution of hydrogen was at an end, treated with 109 g (0.66 mol) of 1-bromo-3-methylbutane. The reaction mixture was stirred at 100° C. for 12 hours and introduced into 2000 ml of water. The precipitate was filtered off with suction, washed with water and dried to constant weight.

reactant | 3-methylxanthine | 0.602 mol, 100 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium hydride | 0.66 mol, 16 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-bromo-3-methylbutane | 0.66 mol, 109 g | BrCCC(C)C | C5H11Br
solvent | DMF | 1200 ml | CN(C)C=O | C3H7NO
solvent | water | 2000 ml | O | H2O
product | 7-(3-Methylbutyl)-3-methylxanthine | CC(CCN1C=NC=2N(C(NC(C12)=O)=O)C)C | C11H16N4O2
